US08334287B2
5-[4-(3-chloro-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-2-methyl-2H-pyridazin-3-one
The title compound, light brown cristalline solid, MS: m/e=339.2, 341.1 (M+H+), was prepared in accordance with the general method of example 1c from 5-(4-iodo-2,5-dimethyl-imidazol-1-yl)-2-methyl-2H-pyridazin-3-one and 1-chloro-3-ethynyl-benzene.

reactant | 5-(4-iodo-2,5-dimethyl-imidazol-1-yl)-2-methyl-2H-pyridazin-3-one | IC=1N=C(N(C1C)C1=CC(N(N=C1)C)=O)C | C10H11IN4O
reactant | 1-chloro-3-ethynyl-benzene | ClC1=CC(=CC=C1)C#C | C8H5Cl
product | 5-[4-(3-chloro-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-2-methyl-2H-pyridazin-3-one | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1C)C1=CC(N(N=C1)C)=O)C | C18H15ClN4O
